US06906063B2
To a solution of (4-chloro-3-methoxyphenyl)methan-1-ol (5.08 g, 29.4 mmol) in benzene (120 mL) was added MnO2 (5.65 g, 65 mmol). The reaction mixture was refluxed for 17 hr, chilled, and filtered through Celite, washing the cake with CH2Cl2 (300 mL). The filtrate was concentrated in vacuo to give 4-chloro-3-methoxybenzaldehyde (4.5 g, 89%).

reactant | (4-chloro-3-methoxyphenyl)methan-1-ol | 29.4 mmol, 5.08 g | ClC1=C(C=C(C=C1)CO)OC | C8H9ClO2
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
catalyst | MnO2 | 65 mmol, 5.65 g | O=[Mn]=O
product | 4-chloro-3-methoxybenzaldehyde | 4.5 g, 89% | ClC1=C(C=C(C=O)C=C1)OC | C8H7ClO2
